US06423704B1
Treat a solution of 4-[1-(2-cyclopropylmethoxy-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.32 g, 0.76 mmol) and dioxane (4 mL) with 4N HCl in dioxane (2.3 mL, 12 equivalents) with stirring. After 90 minutes concentrate to remove the solvent, add 2.5 mL, of dichloromethane and then add ether dropwise with stirring. Repeat the process of concentration, dissolving in dichloromethane (2 mL) and treating the solution with ether and allowing the mixture to stir overnight until a suspension of yellow crystalline material is obtained. Collect the prpeipitate by filtration under argon, wash with ether and dry in vacuo overnight to give 1-(2-cyclopropylmethoxy-ethyl)-2-[1,4]diazepan-1-yl-1H-benzoimidazole dihydrochloride (0.22 g). Treat a slurry of 1-(2-cyclopropylmethoxy-ethyl)-2-[1,4]diazepan-1-yl-1H-benzoimidazole dihydrochloride (0.16 g, 0.42 mmol) and dichloromethane (150 mL) with saturated NaHCO3 solution. Extract the aqueous phase once with dichloromethane (100 mL). Wash the combined dichloromethane phases with water (3×200 mL) and saturated brine (100 mL), dry (MgSO4) the organic phase, filter and concentrate to afford a 1-(2-cyclopropylmethoxy-ethyl)-2-[1,4]diazepan-1-yl-1H-benzoimidazole as a yellow oil (0.10 g).

reactant | 4-[1-(2-cyclopropylmethoxy-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 0.76 mmol, 0.32 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOCC1CC1)C=CC=C2 | C23H34N4O3
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2.3 mL, 12 equivalents | O1CCOCC1 | C4H8O2
product | 1-(2-cyclopropylmethoxy-ethyl)-2-[1,4]diazepan-1-yl-1H-benzoimidazole dihydrochloride | 0.22 g | Cl.Cl.C1(CC1)COCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C18H26N4O.2ClH/c1-2-5-17-16(4-1)20-18(21-10-3-8-19-9-11-21)22(17)12-13-23-14-15-6-7-15;;/h1-2,4-5,15,19H,3,6-14H2;2*1H
